US09301951B2
Intermediate 190a: (S)-1-(2-(N-methyl-3-((4-(piperidin-1-yl)-2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzamido)ethyl)pyrrolidine-2-carboxylic acid
To (S)-tert-butyl 1-(2-(N-methyl-3-((4-(piperidin-1-yl)-2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzamido)ethyl)pyrrolidine-2-carboxylate (90 mg) was added TFA (5 mL). The mixture was stirred at room temperature for 6 h, concentrated and purified by column to give a yellow solid (75 mg, 90%).

reactant | (S)-tert-butyl 1-(2-(N-methyl-3-((4-(piperidin-1-yl)-2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzamido)ethyl)pyrrolidine-2-carboxylate | 90 mg | CN(C(C1=CC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)=O)=O)CCN1[C@@H](CCC1)C(=O)OC(C)(C)C | C47H56N6O5
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (S)-1-(2-(N-methyl-3-((4-(piperidin-1-yl)-2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzamido)ethyl)pyrrolidine-2-carboxylic acid | 75 mg, 90% | CN(C(C1=CC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)=O)=O)CCN1[C@@H](CCC1)C(=O)O | C43H48N6O5
